US08975400B2
5-bromo-6-(3-(trifluoromethyl)phenoxy)nicotinic acid
To a solution of methyl 5-bromo-6-(3-(trifluoromethyl)phenoxy)nicotinate (610 mg, 1.62 mmol) in methanol (4.00 mL), tetrahydrofuran (THF) (4 mL) and water (2.000 mL) was added LiOH (117 mg, 4.87 mmol) at rt. The reaction mixture was stirred at rt for 3 h, quenched with HCl and concentrated. Purification via ISCO system (ethyl acetate/petroleum ether=1/10) afforded the title product (600 mg).

reactant | methyl 5-bromo-6-(3-(trifluoromethyl)phenoxy)nicotinate | 1.62 mmol, 610 mg | BrC=1C(=NC=C(C(=O)OC)C1)OC1=CC(=CC=C1)C(F)(F)F | C14H9BrF3NO3
reactant | LiOH | 4.87 mmol, 117 mg | [Li+].[OH-]
solvent | methanol | 4.00 mL | CO | CH4O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | water | 2.000 mL | O | H2O
product | 5-bromo-6-(3-(trifluoromethyl)phenoxy)nicotinic acid | 600 mg | BrC=1C(=NC=C(C(=O)O)C1)OC1=CC(=CC=C1)C(F)(F)F | C13H7BrF3NO3
